US04188395
2-Acetoxymethyl-6-methyl-4-(4'-methoxyphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester
After heating a solution of 5.7 g of 4-methoxybenzaldehyde, 7.9 g of γ-acetoxyacetoacetic acid ethyl ester and 5.5 g of β-aminocrotonic acid ethyl ester in 40 ccs of ethanol for 20 hours, the mixture is cooled and the precipitate is filtered off and recrystallised from ether. White crystals of melting point 89°-90° C., yield: 45%

reactant | 4-methoxybenzaldehyde | 5.7 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | γ-acetoxyacetoacetic acid ethyl ester | 7.9 g | C(C)OC(CC(=O)COC(C)=O)=O | C8H12O5
reactant | β-aminocrotonic acid ethyl ester | 5.5 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Acetoxymethyl-6-methyl-4-(4'-methoxyphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | yield: 45% | C(C)OC(=O)C1=C(NC(=C(C1C1=CC=C(C=C1)OC)C(=O)OCC)C)COC(C)=O | C22H27NO7
